US08013156B2
3-Methyl-piperazine-1-carboxylic acid tert-butyl ester (5.0 g, 25 mmol), 2,3-dichloropyrazine (1.3 mL, 12.5 mmol), and DMF (5.0 mL) were combined and heated to 100 C overnight with stirring. The reaction mixture was poured into H2O and extracted with EtOAc (3×). The combined EtOAc extractions were washed with sat'd NaHCO3 (2×), sat's NaCl (1×), dried (Na2SO4), and concentrated in vacuo. The crude product was purified by column chromatography (4:1 hexanes:EtOAc) to give 1.76 g (45%) of 3′-chloro-2-methyl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester. 1H NMR (CDCl3) 8.08 (d, 1H), 7.86 (d, 1H), 4.22-3.76 (complex m, 3H), 3.48-3.17 (complex m, 4H), 1.48 (s, 9H), 1.19 (d, 3H) ppm. LC-MS (MH+)=257 (-t-butyl).

reactant | 3-Methyl-piperazine-1-carboxylic acid tert-butyl ester | 25 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CC(NCC1)C | C10H20N2O2
reactant | 2,3-dichloropyrazine | 12.5 mmol, 1.3 mL | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 3′-chloro-2-methyl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 1.76 g, 45% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=NC=CN=C1Cl)C | C14H21ClN4O2
